US07612114B2
Synthesized from 6-methoxy-1-tetralone according to an analogous synthetic method to Preparation Example 106, 3-bromo-7-methoxy-1,2-dihydronaphthalene (2.7 g) and 2-bromo-3-nitrotoluene (4.8 g) were used according to an analogous synthetic method to Preparation Example 107 to provide 7-methoxy-3-(2-methyl-6-nitrophenyl)-1,2-dihydronaphthalene (925 mg). This compound (920 mg) was used according to an analogous synthetic method to Example 30 to provide the title compound (740 mg).

reactant | 6-methoxy-1-tetralone | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | 3-bromo-7-methoxy-1,2-dihydronaphthalene | 2.7 g | BrC=1CCC2=CC(=CC=C2C1)OC | C11H11BrO
reactant | 2-bromo-3-nitrotoluene | 4.8 g | BrC1=C(C=CC=C1[N+](=O)[O-])C | C7H6BrNO2
product | 7-methoxy-3-(2-methyl-6-nitrophenyl)-1,2-dihydronaphthalene | 925 mg | COC1=CC=C2C=C(CCC2=C1)C1=C(C=CC=C1[N+](=O)[O-])C | C18H17NO3
